US06140332
Step 9.1: 2-Amino-3-ethoxycarbonyl-5-(naphth-2-yl)-1H-pyrrole
Under an argon atmosphere, 834 mg (5 mmol) of 2-amidino-acetic acid ethyl ester hydrochloride [for preparation see: Liebigs Ann. Chem., 1895 (1977)] are introduced into 10 ml of ethanol and, at 0-5° C., 358 mg (5 mmol) of sodium ethanolate are added thereto. The bright yellow suspension is stirred for 15 min and then 623 mg (2.5 mmol) of 2-bromo-1-(naphth-2-yl)-ethan-1-one (2-bromo-2'-acetonaphthone; Aldrich; Milwaukee/USA) are added thereto. After 3 days' stirring at RT, the reaction mixture is concentrated by evaporation. The residue is taken up in ethyl acetate/water and filtered and the organic phase is separated off and washed with 3 portions of water and brine. The aqueous phases are extracted with ethyl acetate and the organic phases are dried over MgSO4 and concentrated by evaporation. Column chromatography (SiO2 ; ethyl acetate/hexane [1:1]) and stirring in diethyl ether/hexane yield the title compound; m.p. 149-151° C.; TLC-Rf =0.5 (ethyl acetate/hexane [1:1]); FAB-MS: (M+H)+ =281.

reactant | 2-amidino-acetic acid ethyl ester hydrochloride | 5 mmol, 834 mg | Cl.C(C)OC(CC(N)=N)=O
reactant | sodium ethanolate | 5 mmol, 358 mg | C(C)[O-].[Na+]
reactant | 2-bromo-1-(naphth-2-yl)-ethan-1-one | 2.5 mmol, 623 mg | BrCC(=O)C1=CC2=CC=CC=C2C=C1 | C12H9BrO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-Amino-3-ethoxycarbonyl-5-(naphth-2-yl)-1H-pyrrole | NC=1NC(=CC1C(=O)OCC)C1=CC2=CC=CC=C2C=C1 | C17H16N2O2
